2135-04-04 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2135-4-3**] 08:30 PM
   admit @ 20:25
   - Started heparin gtt for ?PE given persistent O2 requirement (5L O2
   and 50% shovel mask) despite 3L diuresis total over past day, post-op
   risk.
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 50 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Phenothiazines
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-4-3**] 10:00 PM
   Cefipime - [**2135-4-4**] 12:38 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2135-4-3**] 10:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-4-4**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 78 (70 - 79) bpm
   BP: 139/52(70) {123/41(63) - 149/52(121)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    557 mL
                                                                    584 mL
   PO:
             TF:
   IVF:
                                                                    557 mL
                                                                    584 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -543 mL
                                                                    384 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   Physical Examination
   GENERAL: Alert, HoH, responds intermittently but appropriately to
   simple questions, significant oral dyskinesia, not using accessory
   muscles of respiration
   HEENT: NCAT, sclera anicteric, mmm dry, oropharynx clear
   CARDIAC: RRR, s1, s2, II/VI SEM at USB and apex
   LUNG: Diffuse mild rales bilaterally
   ABDOMEN: Soft, nontender, nondistended, bowel sounds present, no
   organomegaly appreciated
   GU: Foley in place
   EXT: Warm, well-perfused, 2+ radial and DP pulses bilat, no LE edema;
   right knee wrapped and in brace
   Labs / Radiology
   263 K/uL
   9.4 g/dL
   112 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.2 mEq/L
   17 mg/dL
   100 mEq/L
   135 mEq/L
   27.1 %
   24.2 K/uL
        [image002.jpg]
                             [**2135-4-3**]  08:10 PM
                             [**2135-4-4**]  02:34 AM
   WBC
   25.8
   24.2
   Hct
   28.6
   27.1
   Plt
   287
   263
   Cr
   0.5
   0.5
   TropT
   0.06
   0.05
   Glucose
   112
   Other labs: PT / PTT / INR:12.9/38.2/1.1, CK / CKMB /
   Troponin-T:234/6/0.05, Differential-Neuts:94.0 %, Lymph:3.4 %, Mono:2.4
   %, Eos:0.1 %, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   81 year old female with h/o dementia, epilepsy, cerebellar ataxia
   (wheelchair bound), and s/p remote right TKR who p/w fall and right
   distal femur fracture, now POD# 1 s/p right femur [**Hospital 12186**] transferred to
   Medicine for acute mental status change, now transferred to MICU for
   hypoxic respiratory distress.
   .
   # Hypoxic respiratory distress: Difficult to record accurate pleth
   given Tardive dyskinesia but evidence of hypoxemia on ABG.  Adequate
   oxygenation on floor with face mask/nasal cannula limited by pt
   cooperation in setting of delirium and tardive dyskinesia.  Stable on
   100% NRB on transfer.  Likely V/Q mismatch/shunt with CXR c/w pulmonary
   edema after receiving 2U pRBC intra-op.  Pt without known CHF but still
   about 2L positive for LOS, despite several doses of lasix.  ABGs not
   c/w hypoventilation.  DDx includes pneumonia (afebrile but elevated
   WBC, does have aspiration risk), PE (post-op but on lovenox ppx, not
   tachycardic but in setting of amiodarone, no cough/hemoptysis).  No h/o
   COPD, no smoking hx, and not wheezy on exam.
   - CTA to evaluate for PE (will give mucomyst and bicarb for renal
   protection)
   - Lasix PRN to goal diuresis of 500-1L per day
   - continue with heparin gtt until CTA
   - Wean to NC as tolerated
   - Hold on coverage of HCAP or aspiration pna for now as no overt
   evidence of pna; leukocytosis explainable by other etiologies
   - Will obtain sputum cultures as possible, check urine legionella
   - Trend CXR
   - Echocardiogram
   - Consider PE work-up if persistent oxygen requirement despite diuresis
   - Ordered for prn nebs but COPD less likely
   .
   # CHF: No known prior history. Last echo in [**2129**] with nl EF, 1+ MR and
   1+ AR. Pt does appear fluid overloaded on exam and by CXR. Mildly
   elevated trops may represent some demand but EKGs stable although
   recent operation could certainly be a stressor.
   - Diuresis as above
   - TSH nl (pt w/ hypothyroidism, on amiodarone)
   - TTE in AM to evaluate EF, valves, WMA
   - Cycle enzymes, monitor on tele, repeat EKG this morning
   - Continue home ASA 325mg
   .
   # Leukocytosis: Increased to 26 this morning. Proteus UTI now found to
   be cipro-resistant so switched to cephalosporin this PM, now on vanc
   and cefepime for empiric HCAP coverage. Also component of stress.
   Possible that pt aspirated as well.  No increased stool output, but
   consider C. diff as pt resides in LTC.  No e/o infection at post-op
   wound.
   - Monitor temp curve & WBC; CIS
   - Check C diff
   - Cont ceftriaxone to cover proteus UTI
   - Hold HCAP/aspiration PNA coverage for now
   - F/u blood cultures; sputum cx & urine legionella as above
   - Monitor surgical wound
   .
   # Altered Mental Status: Likely delirium in setting of UTI and hypoxia;
   may also have post-op delirium.  Given hypoxia, pneumonia is also
   possible; question aspiration.  Patient is on an extensive psychotropic
   regimen, but do not expect acute withdrawal at this time.
   - ID w/u and treatment as above
   - Keep NPO for now given risk for aspiration
   - Holding gabapentin for now
   - Holding seroquel for now as NPO, low-dose haldol prn agitation
   - Reorient prn, minimize unnecessary medications
   .
   # Right distal femur fracture s/p ORIF: POD#2
   - Cont lovenox
   - Touch down WB RLE
   - F/u ortho recs
   - Pain control with APAP PR, morphine IV
   .
   # H/o depression/dementia/cerebellar ataxia:
   - Holding po meds (exelon, fluoxetine, lamotrigine, quetiapine) for now
   with aspiration risk but will restart following improvement in mental
   status
   .
   # H/o hypothyroidism: Levothyroxine 32mg IV for now while NPO, resume
   home 62.5mg po when able
   .
   # Paroxysmal Afib: In sinus and rate controlled currently
   - Hold amiodarone for now as NPO
   .
   # H/o HTN: Holding home anti-hypertensive (amlodipine) for now while
   NPO and actively diuresing
   .
   # FEN: No IVF, replete electrolytes prn, NPO for now, S&S consult, ADAT
   # Prophylaxis: Lovenox SQ
   # Access: PIV
   # Communication: Son/HCP [**Name (NI) 435**] ([**Telephone/Fax (1) 12187**] H, [**Telephone/Fax (1) 12188**] C); also
   daughter/HCP [**Name (NI) 688**] ([**Telephone/Fax (1) 12189**]).
   # Code: DNR but ok to intubate for reversible etiology
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-4-4**] 12:29 AM
   18 Gauge - [**2135-4-4**] 03:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2135-04-04 09:34:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia/Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Weaned down to 50% face mask plus 6L NC.
   24 Hour Events:
 EKG - At [**2135-4-3**] 08:30 PM
   admit @ 20:25
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 50 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Phenothiazines
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-4-3**] 10:00 PM
   Cefipime - [**2135-4-4**] 12:38 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2135-4-3**] 10:38 PM
   Furosemide (Lasix) - [**2135-4-4**] 08:06 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-4-4**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 77 (70 - 79) bpm
   BP: 149/129(134) {123/41(63) - 149/129(134)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    557 mL
                                                                    814 mL
   PO:
             TF:
   IVF:
                                                                    557 mL
                                                                    814 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    725 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -543 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases bilaterally)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R knee immobilizer on
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive but
   not oriented to place or time
   Labs / Radiology
   9.4 g/dL
   263 K/uL
   112 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.2 mEq/L
   17 mg/dL
   100 mEq/L
   135 mEq/L
   27.1 %
   24.2 K/uL
        [image002.jpg]
                             [**2135-4-3**]  08:10 PM
                             [**2135-4-4**]  02:34 AM
   WBC
   25.8
   24.2
   Hct
   28.6
   27.1
   Plt
   287
   263
   Cr
   0.5
   0.5
   TropT
   0.06
   0.05
   Glucose
   112
   Other labs: PT / PTT / INR:12.9/75.5/1.1, CK / CKMB /
   Troponin-T:234/6/0.05, Differential-Neuts:94.0 %, Lymph:3.4 %, Mono:2.4
   %, Eos:0.1 %, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
   81 year old female with h/o dementia, epilepsy, cerebellar ataxia
   (wheelchair bound), and s/p remote right TKR who p/w fall and right
   distal femur fracture, now POD# 1 s/p right femur [**Hospital 12186**] transferred to
   Medicine for acute mental status change, now transferred to MICU for
   hypoxic respiratory distress.
   # Hypoxemia/Respiratory Failure: presentation most c/w pulmonary
   edema.  Continue to diurese as tolerated.  TTE today.  Started on
   heparin gtt overnight to empirially treat for PE - will get CTA to rule
   out.
   # Leukocytosis: Continue to be high.  Cont CTX for UTI.  No fevers,
   cont to monitor fever curve.
   .
   # Altered Mental Status:  Dementia at baseline.  MS appears improved
   from yestrday.
   .
   # Right distal femur fracture s/p ORIF: Ortho following.  Holding DVT
   ppx as she is on heparin gtt.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-4-4**] 12:29 AM
   18 Gauge - [**2135-4-4**] 03:15 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2135-04-05 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CTA CHEST:  There is no PE. Patchy ground glass opacifications in
   both lungs c/w pulmonary edema.  Small left pleural effusion. Moderate
   hiatal hernia. No LAD. Three small liver enhancing lesions (largest
   1.6cm), nonspecific but suggesting AVM.
   - Started on heparin gtt earlier in day (given persistent O2
   requirement despite 3L diuresis over past 24 hrs) but CTA neg so D/C.
   - Diuresed with 20mg lasix boluses (negative 300cc/24hr), would try
   40IV in future (got one dose at 3AM) as BP tolerating well
   - soiled knee brace - call orthotec in AM to get another
   - ordered for echo
   - ADAT to regular
   - guaiac positive
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 50 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Phenothiazines
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-4-3**] 10:00 PM
   Cefipime - [**2135-4-4**] 12:38 AM
   Ceftriaxone - [**2135-4-4**] 09:54 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2135-4-5**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No change
   Flowsheet Data as of  [**2135-4-5**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 74 (70 - 83) bpm
   BP: 133/46(66) {120/35(59) - 153/129(134)} mmHg
   RR: 29 (19 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,661 mL
                                                                    120 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,061 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                  1,030 mL
   Urine:
                                                                    345 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -299 mL
                                                                   -910 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GENERAL: Alert, HoH, responds intermittently but appropriately to
   simple questions, significant oral dyskinesia, not using accessory
   muscles of respiration
   HEENT: NCAT, sclera anicteric, mmm dry, oropharynx clear
   CARDIAC: RRR, s1, s2, II/VI SEM at USB and apex
   LUNG: Diffuse mild rales bilaterally
   ABDOMEN: Soft, nontender, nondistended, bowel sounds present, no
   organomegaly appreciated
   GU: Foley in place
   EXT: Warm, well-perfused, 2+ radial and DP pulses bilat, no LE edema;
   right knee wrapped and in brace
   Labs / Radiology
   320 K/uL
   9.9 g/dL
   122 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.1 mEq/L
   18 mg/dL
   104 mEq/L
   141 mEq/L
   28.6 %
   24.9 K/uL
        [image002.jpg]
                             [**2135-4-3**]  08:10 PM
                             [**2135-4-4**]  02:34 AM
                             [**2135-4-4**]  02:25 PM
                             [**2135-4-5**]  04:00 AM
   WBC
   25.8
   24.2
   24.9
   Hct
   28.6
   27.1
   28.6
   Plt
   287
   263
   320
   Cr
   0.5
   0.5
   0.5
   0.6
   TropT
   0.06
   0.05
   Glucose
   112
   114
   122
   Other labs: PT / PTT / INR:12.9/57.2/1.1, CK / CKMB /
   Troponin-T:234/6/0.05, Differential-Neuts:94.7 %, Lymph:3.6 %, Mono:1.6
   %, Eos:0.0 %, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   [**4-4**] C Diff pending
   [**4-3**] MRSA screen pending
   [**4-2**] blood cx X2
 NGTD
   [**4-3**] legionella ag
 negative
   [**4-1**] urine cx
 proteus >100K, pan-sensitive except resistant to
   bactrim and ciprofloxacin
   [**4-5**] CXR
 read pending
   Assessment and Plan
   81 year old female with h/o dementia, epilepsy, cerebellar ataxia
   (wheelchair bound), and s/p remote right TKR who p/w fall and right
   distal femur fracture, now POD# 4 s/p right femur [**Hospital 12186**] transferred to
   Medicine for acute mental status change, now transferred to MICU for
   hypoxic respiratory distress.
   .
   # Hypoxic respiratory distress: Difficult to record accurate pleth
   given Tardive dyskinesia but evidence of hypoxemia on ABG.  Adequate
   oxygenation on floor with face mask/nasal cannula limited by pt
   cooperation in setting of delirium and tardive dyskinesia.  Stable on
   100% NRB on transfer.  Likely V/Q mismatch/shunt with CXR c/w pulmonary
   edema after receiving 2U pRBC intra-op.  Pt without known CHF but still
   about 2L positive for LOS, despite several doses of lasix.  ABGs not
   c/w hypoventilation.  DDx includes pneumonia (afebrile but elevated
   WBC, does have aspiration risk), PE (post-op but on lovenox ppx, not
   tachycardic but in setting of amiodarone, no cough/hemoptysis).  No h/o
   COPD, no smoking hx, and not wheezy on exam. CTA negative for PE and
   heparin gtt was discontinued [**4-4**].
   - Lasix PRN to goal diuresis of negative 500-1L per day; monitor
   potassium and replete aggressively
   - Wean to NC as tolerated
   - Hold on coverage of HCAP or aspiration pna for now as no overt
   evidence of pna; leukocytosis explainable by other etiologies
   - Will obtain sputum cultures as possible, check urine legionella
   - Trend CXR
   - Echocardiogram today
   - Ordered for prn nebs but COPD less likely
   .
   # CHF: No known prior history. Last echo in [**2129**] with nl EF, 1+ MR and
   1+ AR. Pt does appear fluid overloaded on exam and by CXR. Mildly
   elevated trops may represent some demand but EKGs stable although
   recent operation could certainly be a stressor.
   - Diuresis as above
   - TSH nl (pt w/ hypothyroidism, on amiodarone)
   - TTE this morning to evaluate EF, valves, WMA
   - Cycle enzymes, monitor on tele, repeat EKG this morning
   - Continue home ASA 325mg
   .
   # Leukocytosis: Increased to 25 this morning. Proteus UTI now found to
   be cipro-resistant so switched to cephalosporin.  Also component of
   stress. Possible that pt aspirated as well.  Some increased stool
   output.  No e/o infection at post-op wound.
   - Monitor temp curve & WBC; CIS
   - Follow-up C diff
   - Cont ceftriaxone to cover proteus UTI
   - Hold HCAP/aspiration PNA coverage for now
   - F/u blood cultures; sputum cx
   - Monitor surgical wound
   .
   # Altered Mental Status: Likely delirium in setting of UTI and hypoxia;
   may also have post-op delirium.  Given hypoxia, pneumonia is also
   possible; question aspiration.  Patient is on an extensive psychotropic
   regimen, but do not expect acute withdrawal at this time.
   - ID w/u and treatment as above
   - Keep NPO for now given risk for aspiration
   - Holding gabapentin for now
   - Holding seroquel for now as NPO; low-dose haldol prn agitation
   - Reorient prn, minimize unnecessary medications
   .
   # Guaiac positive stool
   - Monitor; hct [**Hospital1 **]
   .
   # Right distal femur fracture s/p ORIF: POD#4
   - Lovenox
   - Touch down WB RLE
   - F/u ortho recs
   - Pain control with APAP PR, morphine IV
   .
   # H/o depression/dementia/cerebellar ataxia:
   - Holding po meds (exelon, fluoxetine, lamotrigine, quetiapine) for now
   with aspiration risk but will restart following improvement in mental
   status
   .
   # H/o hypothyroidism: Levothyroxine 32mcg IV for now while NPO, resume
   home 62.5mcg po
   .
   # Paroxysmal Afib: In sinus and rate controlled currently
   - Restart amiodarone
   .
   # H/o HTN: Holding home anti-hypertensive (amlodipine) for now while
   NPO and actively diuresing
   .
   # FEN: No IVF, replete electrolytes prn, NPO for now, appreciate S&S
   consult, ADAT
   # Prophylaxis: Prophylactic lovenox SQ (40 mg SC qd)
   # Access: PIV
   # Communication: Son/HCP [**Name (NI) 435**] ([**Telephone/Fax (1) 12187**] H, [**Telephone/Fax (1) 12188**] C); also
   daughter/HCP [**Name (NI) 688**] ([**Telephone/Fax (1) 12189**]).
   # Code: DNR but ok to intubate for reversible etiology
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-4-4**] 12:29 AM
   18 Gauge - [**2135-4-4**] 03:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2135-04-05 11:36:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women with dementia, admitted with fall, ORIF of hip.  Admitted
   to MICU with respiratory distress.  had negative CTA, CXR with evidence
   of fluid overload.  Getting diuresed.  Found to have guaiac positive
   brown stool.
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 50 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Phenothiazines
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-4-3**] 10:00 PM
   Cefipime - [**2135-4-4**] 12:38 AM
   Ceftriaxone - [**2135-4-4**] 09:54 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2135-4-5**] 04:08 AM
   Other medications:
   levoxyl
   mucomyst
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-4-5**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 76 (67 - 83) bpm
   BP: 141/101(111) {120/35(59) - 153/119(125)} mmHg
   RR: 47 (19 - 47) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,661 mL
                                                                    480 mL
   PO:
                                                                    600 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,061 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                  1,530 mL
   Urine:
                                                                    345 mL
                                                                  1,280 mL
   NG:
   Stool:
   250 mL
   Drains:
   Balance:
                                                                   -299 mL
                                                                 -1,050 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, mildly tachypneic
   Eyes / Conjunctiva: b/l surgical pupils
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): to name and place, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   320 K/uL
   122 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.1 mEq/L
   18 mg/dL
   104 mEq/L
   141 mEq/L
   28.6 %
   24.9 K/uL
        [image002.jpg]
                             [**2135-4-3**]  08:10 PM
                             [**2135-4-4**]  02:34 AM
                             [**2135-4-4**]  02:25 PM
                             [**2135-4-5**]  04:00 AM
   WBC
   25.8
   24.2
   24.9
   Hct
   28.6
   27.1
   28.6
   Plt
   287
   263
   320
   Cr
   0.5
   0.5
   0.5
   0.6
   TropT
   0.06
   0.05
   Glucose
   112
   114
   122
   Other labs: PT / PTT / INR:12.9/57.2/1.1, CK / CKMB /
   Troponin-T:234/6/0.05, Differential-Neuts:94.7 %, Lymph:3.6 %, Mono:1.6
   %, Eos:0.0 %, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory distress:  Likely pulmonary edema.  Continue diuresis.  Get
   echo today.
   Likely acute on chronic diastolic CHF.
   hip fracture:  stable
   CTX for UTI.
   MS:  improved today, likely post-op delirium
   guaiac positive stool.
   restart prophylactic lovenox
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-4-4**] 12:29 AM
   18 Gauge - [**2135-4-4**] 03:15 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2135-04-06 10:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women s/o THR or fracture, post-op hypoxemia.  Treating for
   cardiogenic pulmonary edema.  Doing better weaned down to 95% on 5L NC
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2135-4-5**] 10:29 AM
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 50 (Oral) (Propoxyphene/Acetaminophen)
   Unknown;
   Phenothiazines
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-4-3**] 10:00 PM
   Cefipime - [**2135-4-4**] 12:38 AM
   Ceftriaxone - [**2135-4-5**] 10:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2135-4-6**] 07:30 AM
   Other medications:
   CTX
   asa
   Fe
   tums
   lamotrigin
   gabapentin
   MVI
   flovoxamine
   amiodarone
   oxycodone
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-4-6**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.3
   HR: 83 (66 - 85) bpm
   BP: 107/46(60) {104/37(57) - 139/80(86)} mmHg
   RR: 25 (16 - 42) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,385 mL
                                                                    587 mL
   PO:
                                                                  1,320 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     65 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    740 mL
   Urine:
                                                                  2,005 mL
                                                                    740 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,070 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l [**12-18**] way up)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): times 2,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   392 K/uL
   110 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   26 mg/dL
   106 mEq/L
   143 mEq/L
   31.6 %
   17.5 K/uL
        [image002.jpg]
                             [**2135-4-3**]  08:10 PM
                             [**2135-4-4**]  02:34 AM
                             [**2135-4-4**]  02:25 PM
                             [**2135-4-5**]  04:00 AM
                             [**2135-4-5**]  02:52 PM
                             [**2135-4-6**]  03:48 AM
   WBC
   25.8
   24.2
   24.9
   17.5
   Hct
   28.6
   27.1
   28.6
   30.9
   31.6
   Plt
   287
   263
   320
   392
   Cr
   0.5
   0.5
   0.5
   0.6
   0.7
   0.7
   TropT
   0.06
   0.05
   Glucose
   112
   114
   122
   128
   110
   Other labs: PT / PTT / INR:12.9/57.2/1.1, CK / CKMB /
   Troponin-T:234/6/0.05, Differential-Neuts:91.1 %, Lymph:5.4 %, Mono:2.8
   %, Eos:0.6 %, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
   Acute on chronic diastolic CHF:  still sounds wet, continue diruesis.
   AFib:  HR well controlled
   UTI: on CTX
   lovenox for prophylaxis in setting of ORIF of hip.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-4-4**] 12:29 AM
   18 Gauge - [**2135-4-4**] 03:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill